US07790726B2
(6-Chloro-2-oxo-benzooxazol-3-yl)-acetic acid was prepared by heating 6-chloro-3H-benzooxazol-2-one and ethyl chloroacetate in the presence of cesium carbonate in DMF at 60° C. The crude residue was dissolved followed in 1N LiOH in THF and stirred at rt. The resultant mixture was acidified with 1N HCl to pH ˜1. The desired product precipitated out of solution and was isolated by filtration, and used directly in subsequent reactions without further purification.

reactant | 6-chloro-3H-benzooxazol-2-one | ClC1=CC2=C(NC(O2)=O)C=C1 | C7H4ClNO2
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | LiOH | 1N | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | (6-Chloro-2-oxo-benzooxazol-3-yl)-acetic acid | ClC1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1 | C9H6ClNO4
